US05387685
2-[7-[3 -(2-Chloroethoxy)-4-methoxyphenyl]-7-[(4-methyl phenyl)thio]heptyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-isoquinoline
To a stirred solution of 5.57 g of 5-[7-(3,4-dihydro-6,7-dimethoxy-2(1H)-isoquinolinyl)-1-[(4-methylphenyl)thio]heptyl]-2-methoxyphenol and 2.0 mL of 2-chloroethyl tosylate in 50 mL of 2-butanone is added 0.44 g of 60% sodium hydride in oil. The solution is heated to reflux for 48 hours and then cooled to room temperature. The solution is partitioned between chloroform and brine and the organic layer dried. The solvent is removed at reduced pressure and the residue chromatographed on silica gel with a gradient elution going from hexane to chloroform to methyl alcohol. The desired fractions are concentrated, dissolved in diethyl ether and passed through a short hydrous magnesium silicate pad. The solvent is removed at reduced pressure to afford 1.6 g of the desired product as a light tan gum.

reactant | 5-[7-(3,4-dihydro-6,7-dimethoxy-2(1H)-isoquinolinyl)-1-[(4-methylphenyl)thio]heptyl]-2-methoxyphenol | 5.57 g | COC=1C=C2CCN(CC2=CC1OC)CCCCCCC(SC1=CC=C(C=C1)C)C=1C=CC(=C(C1)O)OC | C32H41NO4S
reactant | 2-chloroethyl tosylate | 2.0 mL | S(=O)(=O)(OCCCl)C1=CC=C(C)C=C1 | C9H11ClO3S
reactant | sodium hydride | 0.44 g | [H-].[Na+]
solvent | 2-butanone | 50 mL | CC(CC)=O | C4H8O
product | 2-[7-[3 -(2-Chloroethoxy)-4-methoxyphenyl]-7-[(4-methyl phenyl)thio]heptyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-isoquinoline | 1.6 g | ClCCOC=1C=C(C=CC1OC)C(CCCCCCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | C34H44ClNO4S
